US06376548B1
N′-tert-Butyl-N′-(3,5-dimethylbenzoyl)-N-(3-methoxy-2-methylbenzoyl)hydrazine carboxylic acid iodomethyl ester (Compound 1-2 of Table 1)
A solution of N′-tert-butyl-N′-(3,5-dimethylbenzoyl)-N-(3-methoxy-2-methylbenzoyl)hydrazine carboxylic acid chloromethyl ester (15.0 g, 32.5 mmol) in 40 mL of acetone was added sodium iodide (9.8 g, 65.1 mmol)and heated to 30° C. for 3 h. The acetone was removed and the resulting slurry was treated with ether. The resulting white precipitated solids were filtered off, and the ether was then concentrated to afford yellow solids. Recrystallization from ether/hexanes afforded tannish crystals (20 g, 96%). 1H-NMR (300 MHz, CDCl3) δ (ppm): 1.64 (s, 9H), 1.97 (bs, 3H), 2.25 (s, 6H), 3.79 (s, 3H), 5.76 (s, 2H), 6,78-7.1 (m, 6H). Mp=70-72° C.

reactant | N′-tert-butyl-N′-(3,5-dimethylbenzoyl)-N-(3-methoxy-2-methylbenzoyl)hydrazine carboxylic acid chloromethyl ester | 32.5 mmol, 15.0 g | ClCOC(=O)N(N(C(C1=CC(=CC(=C1)C)C)=O)C(C)(C)C)C(C1=C(C(=CC=C1)OC)C)=O | C24H29ClN2O5
reactant | sodium iodide | 65.1 mmol, 9.8 g | [I-].[Na+]
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | N′-tert-Butyl-N′-(3,5-dimethylbenzoyl)-N-(3-methoxy-2-methylbenzoyl)hydrazine carboxylic acid iodomethyl ester | ICOC(=O)N(N(C(C1=CC(=CC(=C1)C)C)=O)C(C)(C)C)C(C1=C(C(=CC=C1)OC)C)=O | C24H29IN2O5
